US08076486B2
To a solution of ethyl 3-{3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}-1,2,4-oxadiazole-5-carboxylate (1.80 g; 3.96 mmol; 1.00 eq.) in THF-H2O (1:1) was added lithium hydroxide (0.19 g; 7.93 mmol) Stirred for 2 h at room temperature. After work up, 1.42 g of (2-Fluoro-4-iodo-phenyl)-(4-[1,2,4]oxadiazol-3-yl-pyridin-3-yl)-amine was obtained in 92% yield. MS m/z: 383 M+1

reactant | ethyl 3-{3-[(2-fluoro-4-iodophenyl)amino]pyridin-4-yl}-1,2,4-oxadiazole-5-carboxylate | 3.96 mmol, 1.80 g, 1.00 eq. | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NOC(=N1)C(=O)OCC | C16H12FIN4O3
reactant | lithium hydroxide | 7.93 mmol, 0.19 g | [OH-].[Li+]
solvent | THF H2O | C1CCOC1.O
product | (2-Fluoro-4-iodo-phenyl)-(4-[1,2,4]oxadiazol-3-yl-pyridin-3-yl)-amine | 1.42 g, 92% yield | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NOC=N1 | C13H8FIN4O
